US07781426B2
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-3-[2-nitro-5-(trifluoromethoxy)benzyl]-1,3-oxazolidin-2-one (1.07 g, 2.01 mmol) in EtOAc (30 mL) was added PtO2 (100 mg, 0.44 mmol). The reaction was placed under a H2 atmosphere (balloon) and stirred vigorously. After 1 hour, the catalyst was removed by filtration, and the filtrate was concentrated. Purification of the residue by flash chromatography (5 to 40% EtOAc/hexanes) afforded (4S,5R)-3-[2-amino-5-(trifluoromethoxy)benzyl]-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one. Rf=0.45 (40% EtOAc/hexanes). LCMS=503.2 (M+1)+. 1H NMR (CDCl3, 600 MHz) δ 7.89 (s, 1H), 7.75 (s, 2H), 7.03 (dd, J=8.7, 2.0 Hz, 1H), 6.90 (d, J=2.1 Hz, 1H), 6.67 (d, J=8.7 Hz, 1H), 5.67 (d, J=8.5 Hz, 1H), 4.73 (d, J=15.4 Hz, 1H), 4.35 (bs, 2H), 4.09 (d, J=15.4 Hz, 1H), 4.04 (m, 1H), 0-78 (d, J=6.6 Hz, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-3-[2-nitro-5-(trifluoromethoxy)benzyl]-1,3-oxazolidin-2-one | 2.01 mmol, 1.07 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)OC(F)(F)F)[N+](=O)[O-])C)(F)F | C20H13F9N2O5
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | PtO2 | 0.44 mmol, 100 mg | O=[Pt]=O
product | (4S,5R)-3-[2-amino-5-(trifluoromethoxy)benzyl]-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | NC1=C(CN2C(O[C@@H]([C@@H]2C)C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)C=C(C=C1)OC(F)(F)F | C20H15F9N2O3
